US09102623B2
A13.2) 5-Bromo-6-(difluoromethyl)-N-(2-methoxy-methylethyl)-2-oxo-1,2-dihydropyridine-3-carboxamide
At room temperature, 334 mg (1.19 mmol) of methyl 5-bromo-6-(difluoromethyl)-2-oxo-1,2-dihydropyridine-3-carboxylate in 3.3 ml (41 mmol) of 2-amino-1-methoxypropane were stirred for 14 h. The pH was then adjusted to 2 by addition of 1N hydrochloric acid, and the mixture was extracted with dichloromethane. Drying and concentration of the extract gave 360 mg (89% of theory) of the product.

reactant | methyl 5-bromo-6-(difluoromethyl)-2-oxo-1,2-dihydropyridine-3-carboxylate | 1.19 mmol, 334 mg | BrC=1C=C(C(NC1C(F)F)=O)C(=O)OC | C8H6BrF2NO3
reactant | 2-amino-1-methoxypropane | 41 mmol, 3.3 ml | NC(COC)C | C4H11NO
reactant | hydrochloric acid | 1N | Cl | ClH
product | 5-Bromo-6-(difluoromethyl)-N-(2-methoxy-methylethyl)-2-oxo-1,2-dihydropyridine-3-carboxamide | BrC=1C=C(C(NC1C(F)F)=O)C(=O)NC(COC)C | C11H13BrF2N2O3
